* OP27 SPICE Macro-model                   12/90, Rev. B
*                                           JCB / PMI
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT OP27     1 2 99 50 39
*
* INPUT STAGE   POLE AT 80 MHZ
*
R3   5  97    0.0619
R4   6  97    0.0619
CIN  1   2    4E-12
C2   5   6    16.07E-9
I1   4  51    1
IOS  1   2    3.5E-9
EOS  9  10    POLY(1)  30 33  10E-6  1
Q1   5  2  7  QX
Q2   6  9  8  QX
R5   7   4    0.0107
R6   8   4    0.0107
D1   2   1    DX
D2   1   2    DX
EN   10  1    12  0  1
GN1  0   2    15  0  1
GN2  0   1    18  0  1
*
EREF  98 0    33  0  1
EPLUS 97 0    99  0  1
ENEG  51 0    50  0  1 
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
DN1  11  12   DEN
DN2  12  13   DEN
VN1  11   0   DC 2
VN2  0   13   DC 2
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
DN3  14  15   DIN
DN4  15  16   DIN
VN3  14   0   DC 2
VN4  0   16   DC 2
*
* SECOND CURRENT NOISE SOURCE
*
DN5  17  18   DIN
DN6  18  19   DIN
VN5  17   0   DC 2
VN6  0   19   DC 2
*
* GAIN STAGE   DOMINANT POLE AT 4.0 HZ
*
R7   20 98     111.5E3
C3   20 98     357E-9
G1   98 20     5  6  16.15
V1   97 21     1.2
V2   22 51     1.2
D5   20 21     DX
D6   22 20     DX
*
* POLE - ZERO AT 2.9MHZ / 6MHZ
*
R8   23 98     1
R9   23 24     0.935
C4   24 98     28.4E-9
G2   98 23     20 33  1
*
* ZERO - POLE AT 6.8MHZ / 40MHZ
*
R10  25 26     1
R11  26 98     4.88
L1   26 98     19.4E-9
G3   98 25     23 33  1
*
* POLE AT 60 MHZ
*
R12  27 98     1
C5   27 98     2.65E-9
G4   98 27     25 33 1
*
* ZERO AT 28 MHZ
*
R13  28 29     1
C6   28 29     -5.68E-9
R14  29 98     1E-6
E1   28 98     27 33  1E6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 3 KHZ
*
R15  30 31     1
L2   31 98     53.1E-6
G5   98 30     POLY(2) 2  33  1  33  0  250.5E-9  250.5E-9
D7   30 97     DX
D8   51 30     DX
*
* POLE AT 80 MHZ
*
R16  32 98     1
C7   32 98     1.99E-9
G6   98 32     29 33  1
*
* OUTPUT STAGE
*
R17  33 97     1
R18  33 51     1
GSY  99 50     POLY(1) 99 50 1.8E-3 40E-6
F1   34  0     V3  1
F2   0  34     V4  1
R19  34 99     180
R20  34 50     180
L3   34 39     1E-7
G7   37 50     32 34  5.56E-3
G8   38 50     34 32  5.56E-3
G9   34 99     99 32  5.56E-3
G10  50 34     32 50  5.56E-3
V3   35 34     2.5
V4   34 36     3.1
D9   32 35     DX
D10  36 32     DX
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
*
* MODELS USED
*
.MODEL QX NPN(BF=50E6)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DEN  D(IS=1E-12, RS=1.09K, KF=1.08E-16, AF=1)
.MODEL DIN  D(IS=1E-12, RS=19.3E-6, KF=4.28E-15, AF=1)
.ENDS
